US09216980B2
3-[4-(4-Methylpiperazin-1-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid amide
DIPEA (14 μL, 77 μmol) was added to a solution of 3-[4-(4-methylpiperazin-1-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid (20.0 mg, 51.6 μmol), PyBOP (28.2 mg, 54.2 μmol) and HOBt (8.4 mg, 62 μmol) in DMF (1 mL). After 10 min at ambient temperature, a solution of 0.5M ammonia in 1,4-dioxane (500 μL, 0.258 mmol) was added to the reaction mixture. After 30 min the reaction mixture was acidified with 10% aqueous sulfuric acid and made homogeneous with the addition of DMSO. The crude solution was purified by preparative HPLC (0-30% MeCN over 30 min, 35 mL/min) to afford the title compound. 1H NMR (DMSO-D6, 400 MHz): 12.48 (s, 1H), 9.11-8.89 (m, 4H), 7.77 (d, J=8.9 Hz, 2H), 7.18 (d, J=8.9 Hz, 2H), 3.97 (d, J=13.5 Hz, 2H), 3.55 (q, J=12.2 Hz, 2H), 3.20 (q, J=11.4 Hz, 2H), 3.03 (t, J=12.0 Hz, 2H), 2.89 (s, 3H). LCMS (Method D): RT=6.35 min, M+H+=387.

reactant | DIPEA | 77 μmol, 14 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-[4-(4-methylpiperazin-1-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid | 51.6 μmol, 20.0 mg | CN1CCN(CC1)C1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)C(=O)O)N=C1 | C22H21N5O2
reactant | PyBOP | 54.2 μmol, 28.2 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | HOBt | 62 μmol, 8.4 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ammonia | 0.5M | N | H3N
reactant | 1,4-dioxane | 0.258 mmol, 500 μL | O1CCOCC1 | C4H8O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-[4-(4-Methylpiperazin-1-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid amide | CN1CCN(CC1)C1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)C(=O)N)N=C1 | C22H22N6O
